US09290468B2
Step 10: methyl 4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d]thiazole-6-carboxylate
To a solution of methyl 4-fluoro-5-((2-fluorophenyl)amino)benzo[d]thiazole-6-carboxylate (8.64 g, 26.97 mmol) in DMF (100 mL) was added NIS (6.68 g, 29.67 mmol) followed by trifluoroacetic acid (0.5 mL). After stirring for 5 h at ambient temperature, the reaction was treated by water (150 mL). The precipitate was filtered off and the filter cake was washed with water. The desired product was obtained as a yellow solid (10.34 g, 86.0% yield). 1H NMR (400 MHz, CDCl3): δ 9.14 (s, 1H), 8.66 (s, 1H), 8.46 (s, 1H), 7.42 (d, J=10.4 Hz, 1H), 7.31 (d, J=8.8 Hz, 1H), 6.63 (dd, J=15.0, 8.7 Hz, 1H), 3.97 (s, 3H).

reactant | methyl 4-fluoro-5-((2-fluorophenyl)amino)benzo[d]thiazole-6-carboxylate | 26.97 mmol, 8.64 g | FC1=C(C(=CC2=C1N=CS2)C(=O)OC)NC2=C(C=CC=C2)F | C15H10F2N2O2S
reactant | NIS | 29.67 mmol, 6.68 g | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | 150 mL | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | methyl 4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d]thiazole-6-carboxylate | FC1=C(C(=CC2=C1N=CS2)C(=O)OC)NC2=C(C=C(C=C2)I)F | C15H9F2IN2O2S
